US09085555B2
B. 3-Bromo-4-fluoro-5-nitro-benzoic acid
NBS (47.9 g, 0.268 mol) was added portion-wise to a solution of 4-fluoro-3-nitro-benzoic acid (41.5 g, 0.224 mol) in conc. H2SO4 (0.35 L). The reaction mixture was stirred for 5 h at 65° C. and then poured into ice-water (1.5 L). The precipitate was filtered off, washed twice with water (300 mL) and dried to give the title compound as a white solid. 1H-NMR (300 MHz, CDCl3): δ (ppm) 10.7 (s, br, 1H), 8.76 (m, 1H), 8.62 (m, 1H).

reactant | NBS | 0.268 mol, 47.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-fluoro-3-nitro-benzoic acid | 0.224 mol, 41.5 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
solvent | H2SO4 | 0.35 L | OS(=O)(=O)O | H2O4S
product | 3-Bromo-4-fluoro-5-nitro-benzoic acid | BrC=1C=C(C(=O)O)C=C(C1F)[N+](=O)[O-] | C7H3BrFNO4
